US07547710B2
To a solution of tert-butyl {[6-(3-hydroxypropyl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (3.00 g, 6.48 mmol) and triethylamine (1.8 ml, 12.9 mmol) in tetrahydrofuran (50 ml) was added dropwise methanesulfonyl chloride (1.12 g, 9.73 mmol) at 0° C., and the mixture was stirred at the same temperature for 30 min. Saturated aqueous sodium hydrogen carbonate was added to the reaction mixture and the mixture was extracted twice with ethyl acetate. The combined organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was dissolved in dimethyl sulfoxide (40 ml). Potassium cyanide (2.1 g, 32.4 mmol) was added and the mixture was stirred at 60° C. for 2.5 hrs. The reaction mixture was diluted with ethyl acetate, washed twice with saturated aqueous sodium hydrogen carbonate, water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give tert-butyl {[6-(3-cyanopropyl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (2.73 g, yield 89%) as yellow crystals.

reactant | tert-butyl {[6-(3-hydroxypropyl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 6.48 mmol, 3.00 g | OCCCC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C29H38N2O3
reactant | triethylamine | 12.9 mmol, 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 9.73 mmol, 1.12 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | Potassium cyanide | 32.4 mmol, 2.1 g | [C-]#N.[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl {[6-(3-cyanopropyl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 2.73 g, yield 89% | C(#N)CCCC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C30H37N3O2
